US08278343B2
Preparation 77: 1-Cyclobutanecarbonyl-3-(4′-fluoro-biphenyl-4-yloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation using cyclobutanecarbonyl chloride and 3-(4′-fluoro-biphenyl-4-yloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester (Preparation 65) to afford the racemate as a colourless oil (105 mg, 85%)

reactant | cyclobutanecarbonyl chloride | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | 3-(4′-fluoro-biphenyl-4-yloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CNCC1)COC1=CC=C(C=C1)C1=CC=C(C=C1)F | C20H22FNO3
product | 1-Cyclobutanecarbonyl-3-(4′-fluoro-biphenyl-4-yloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(=O)C1CCC1)COC1=CC=C(C=C1)C1=CC=C(C=C1)F | C25H28FNO4
